US08975400B2
7-((3,5-difluoro-4-(4-(trifluoromethyl)phenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (30 mg, 0.162 mmol), sodium hydride (12.93 mg, 0.323 mmol) and (3,5-difluoro-4-(4-(trifluoromethyl)phenoxy)phenyl)methanol (49.2 mg, 0.162 mmol) in DMF (1.5 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.162 mmol, 30 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.323 mmol, 12.93 mg | [H-].[Na+]
reactant | (3,5-difluoro-4-(4-(trifluoromethyl)phenoxy)phenyl)methanol | 0.162 mmol, 49.2 mg | FC=1C=C(C=C(C1OC1=CC=C(C=C1)C(F)(F)F)F)CO | C14H9F5O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-((3,5-difluoro-4-(4-(trifluoromethyl)phenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=C(C1OC1=CC=C(C=C1)C(F)(F)F)F | C21H16F5N3O3
